US04873344
The following operations are performed under dry nitrogen. A solution of 40.0 gr 3-carboxy-3-(4-fluorophenyl)-indan-1-one in 50 ml N-methylpyrrolidone is heated to 100° C. and stirred for 2 hours at this temperature. The reaction-mixture is cooled and poured into 250 ml water. Subsequent extractive work-up with ethylacetate give the product 3-(4-fluorophenyl)-indan-1-one.

reactant | 3-carboxy-3-(4-fluorophenyl)-indan-1-one | 40.0 gr | C(=O)(O)C1(CC(C2=CC=CC=C12)=O)C1=CC=C(C=C1)F | C16H11FO3
reactant | water | 250 ml | O | H2O
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 3-(4-fluorophenyl)-indan-1-one | FC1=CC=C(C=C1)C1CC(C2=CC=CC=C12)=O | C15H11FO
